US08115378B2
3,6,9,12-Tetrakis-(2,4,6-trimethyl-phenyl)-chrysene
3,6,9,12-Tetrabromo-chrysene (5.0 g, 0.00919 mol), mesitylboronic acid (10.0 g, 0.0610 mol), tris(dibenzylideneacetone) dipalladium (0), (1.40 g, 0.00153 mol), di-tert-butyl-trimethylsilylmethyl-phosphane (0.68 g, 0.00293 mol), cesium carbonate (19.87 g, 0.0610 mol) and 1,4-dioxane (100 ml) were refluxed for 48 h. The resultant mixture was poured into 200 ml of water and extracted twice by 200 ml of methylene chloride. The organic phase was dried over magnesium sulfate overnight and filtered. The solvent was removed on a rotary evaporator. The residue was purified by chromatography on silica gel with petroleum ether/ethyl ether (10/0.5) as eluant. Yield of 3,6,9,12-tetrakis-(2,4,6-trimethyl-phenyl)-chrysene was 1.46 g (23%) as a white solid with no m.p. below 300° C. 1H NMR (C6D6) 2.10-2.55 (m, 36H, Me), 7.05-9.20 (m, 16H, arom.-H). GC/MS (direct probe): Exact mass Found: 700.41.

reactant | 3,6,9,12-Tetrabromo-chrysene | 0.00919 mol, 5.0 g | BrC=1C=CC=2C(=CC3=C4C=C(C=CC4=C(C=C3C2C1)Br)Br)Br | C18H8Br4
reactant | mesitylboronic acid | 0.0610 mol, 10.0 g | C1(=C(C(=CC(=C1)C)C)B(O)O)C | C9H13BO2
reactant | di-tert-butyl-trimethylsilylmethyl-phosphane | 0.00293 mol, 0.68 g | C(C)(C)(C)P(C[Si](C)(C)C)C(C)(C)C | C12H29PSi
reactant | cesium carbonate | 0.0610 mol, 19.87 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone) dipalladium (0) | 0.00153 mol, 1.40 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | water | 200 ml | O | H2O
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3,6,9,12-Tetrakis-(2,4,6-trimethyl-phenyl)-chrysene | CC1=C(C(=CC(=C1)C)C)C=1C=CC=2C(=CC3=C4C=C(C=CC4=C(C=C3C2C1)C1=C(C=C(C=C1C)C)C)C1=C(C=C(C=C1C)C)C)C1=C(C=C(C=C1C)C)C | C54H52
